US07514451B2
Using 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (212 mg) and (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (142 mg), the same procedure was followed as in Example 23 to give 1-cyclopropyl-7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid as a pale yellow crystals (157 mg).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 212 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 142 mg | C1(CC1)NC[C@H]1CNC[C@H]1F | C8H15FN2
product | 1-cyclopropyl-7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 157 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1C[C@@H]([C@@H](C1)F)CNC1CC1)F)=O)C(=O)O | C21H22F3N3O3
